US08685980B2
Following General Procedure E, 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (48 mg, 0.110 mmol) and (S)-2-methyl oxirane (121 mg, 0.22 mmol) gave 7-cyclopentyl-2-{5-[4-((S)-2-hydroxy-propyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (10 mg, 16%). MS (ESI) m/z 493.3 (M+H)+

reactant | 7-cyclopentyl-2-(5-piperazin-1-yl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.110 mmol, 48 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCNCC2)N1C1CCCC1)C | C23H30N8O
reactant | (S)-2-methyl oxirane | 0.22 mmol, 121 mg | C[C@@H]1OC1 | C3H6O
product | 7-cyclopentyl-2-{5-[4-((S)-2-hydroxy-propyl)-piperazin-1-yl]-pyridin-2-ylamino}-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 10 mg, 16% | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)N2CCN(CC2)C[C@H](C)O)N1C1CCCC1)C | C26H36N8O2
